US06310095B1
(S)-3-Cyclohexyl-1-methoxy-2-propylamine
To a solution of (S)-3-phenyl-1-methoxy-2-propylamine hydrochloride (0.5 g) in ethanol (100 ml) was added concentrated HCl (0.32 mL), and platinum oxide (0.5 g), and the reaction was shaken under hydrogen gas (4 atm) for 18 h. The reaction was filtered, concentrated, diluted with water (50 mL) and neutralized with IM NaOH (to pH≈11). The mixture was washed with chloroform (3×50 mL), and the organic extracts were washed with brine (20 mL), dried (M.SO4), filtered and concentrated to give a colorless oil (400 mg).

reactant | (S)-3-phenyl-1-methoxy-2-propylamine hydrochloride | 0.5 g | Cl.C1(=CC=CC=C1)C[C@@H](COC)N
reactant | HCl | 0.32 mL | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.5 g | [Pt]=O
product | (S)-3-Cyclohexyl-1-methoxy-2-propylamine | 400 mg | C1(CCCCC1)C[C@@H](COC)N | C10H21NO
